US04054589
By the procedure of Example 1, 6-chloro-4-methoxy-2,5-dimethylbenzyl-triphenylphosphonium chloride is reacted with 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester to obtain 9-(6-chloro-4-methoxy-2,5-dimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester of melting point 106°-107° C.

reactant | 6-chloro-4-methoxy-2,5-dimethylbenzyl-triphenylphosphonium chloride | [Cl-].ClC1=C(C(=CC(=C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)OC)C
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
product | 9-(6-chloro-4-methoxy-2,5-dimethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C=CC1=C(C=C(C(=C1Cl)C)OC)C)C)C)=O | C22H27ClO3
